US07754737B2
A mixture of benzyl (S)-2-(t-butoxycarbonylamino)-3-(cis-4-hydroxycyclohexyl)-propyl(methyl)carbamate (1 g, 2.38 mmol), base Et3N (5 mL, 28 mmol), a fluoride source NEt3(HF)3 (1.9 mL, 9.52 mmol) and perfluorobutanesulfonyl fluoride (2.1 mL, 9.52 mmol) were stirred in THF (24 mL, 1 mmol/10 mL) in a capped vial or flask at 50° C. until LC revealed complete conversion. The reaction mixture was quenched with water and extracted with EtOAc (2×100 mL), dried over MgSO4, and evaporated. The residue was then purified by preparative HPLC to give benzyl (S)-2-(t-butoxycarbonylamino)-3-(trans-4-fluorocyclohexyl)propyl(methyl)carbamate (200 mg, 20%) as a white solid.

reactant | benzyl (S)-2-(t-butoxycarbonylamino)-3-(cis-4-hydroxycyclohexyl)-propyl(methyl)carbamate | 2.38 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)C[C@@H]1CC[C@@H](CC1)O | C23H36N2O5
reactant | Et3N | 28 mmol, 5 mL | CCN(CC)CC | C6H15N
reactant | fluoride | [F-]
reactant | perfluorobutanesulfonyl fluoride | 9.52 mmol, 2.1 mL | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | THF | 1 mmol, 24 mL | C1CCOC1 | C4H8O
product | benzyl (S)-2-(t-butoxycarbonylamino)-3-(trans-4-fluorocyclohexyl)propyl(methyl)carbamate | 200 mg, 20% | C(C)(C)(C)OC(=O)N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)C[C@@H]1CC[C@H](CC1)F | C23H35FN2O4
